US06777395B2
2-Amino-4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]-pyrimidine
To a suspension of 2-amino-4-chloro-1H-pyrrolo[2,3-d]pyrimidine [Liebigs Ann. Chem.1:137 (1983)] (3.03 g, 18 mmol) in anhydrous MeCN (240 mL), powdered KOH (85%; 4.2 g, 60 mmol) and tris[2-(2-methoxyethoxy)-ethyl]amine (0.66 mL, 2.1 mmol) were added and the mixture was stirred at room temperature for 10 min. Then a solution of 2,3,5-tri-O-benzyl-D-arabinofuranosyl bromide [prepared from corresponding 1-O-p-nitrobenzoate (11.43 g, 20.1 mmol) according to Seela et al., J. Org. Chem. (1982), 47, 226] in MeCN (10 mL) was added and stirring continued for another 40 min. Solid was filtered off, washed with MeCN (2×25 mL) and combined filtrate evaporated. The residue was purified on a silica gel column with a solvent system of hexanes/EtOAc:7/1, 6/1 and 5/1. Two main zones were separated. From the more rapidly migrating zone was isolated the α anomer (0.74 g) and from the slower migrating zone the desired β anomer (4.01 g).

reactant | 2-amino-4-chloro-1H-pyrrolo[2,3-d]pyrimidine | 18 mmol, 3.03 g | NC1=NC(=C2C(N1)=NC=C2)Cl | C6H5ClN4
reactant | KOH | 60 mmol, 4.2 g | [OH-].[K+]
reactant | tris[2-(2-methoxyethoxy)-ethyl]amine | 2.1 mmol, 0.66 mL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | 2,3,5-tri-O-benzyl-D-arabinofuranosyl bromide | 20.1 mmol, 11.43 g | C(C1=CC=CC=C1)O[C@@H]1C(O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)Br | C26H27BrO4
solvent | MeCN | 240 mL | CC#N | C2H3N
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-Amino-4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]-pyrimidine | NC=1N=C(C2=C(N1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2)Cl | C32H31ClN4O4
